US07473692B2
1-(3-cyano-5-trifluoromethyl-phenyl)-piperazine
2.42 g (13 mmol) 3-fluoro-5-trifluoromethyl-benzonitrile and 6.0 g (70 mmol) piperazine was dissolved in 50 ml dimethylsulfoxide and the solution was refluxed for one day. The mixture was poured into 200 ml of water and extracted with diethylether (3×100 ml). The organic layers were washed with saturated sodium chloride solution, then dried and evaporated to dryness in vacuo giving 2.96 g (yield 89.2%) of the title compound, melting at 85-7° C.

reactant | 3-fluoro-5-trifluoromethyl-benzonitrile | 13 mmol, 2.42 g | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | piperazine | 70 mmol, 6.0 g | N1CCNCC1 | C4H10N2
reactant | water | 200 ml | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-(3-cyano-5-trifluoromethyl-phenyl)-piperazine | 2.96 g, yield 89.2% | C(#N)C=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C12H12F3N3
